US06107297
i) N-[4-Fluoropyrimidin-2-yl]-N-methylglycine, methyl ester
To a solution of 2,4-difluoropyrimidine (J.Heterocyclic Chem. 1985, 22, 149) (4.48 g) in isohexane (50 ml) at 0° C. was added sarcosine methyl ester hydrochloride (5.39 g) followed by N,N-diisopropylethylamine (13.45 ml). After 5 minutes, the ice bath was removed and the reaction mixture allowed to stir at room temperature for 3 hours. The solvents were evaporated under reduced pressure and the residue purified by chromatography eluting with ethyl acetate/isohexane mixtures. The first and minor component of the mixture to be eluted was the subtitle compound. Yield 0.68 g.

reactant | 2,4-difluoropyrimidine | 4.48 g | FC1=NC=CC(=N1)F | C4H2F2N2
reactant | sarcosine methyl ester hydrochloride | 5.39 g | Cl.COC(CNC)=O
reactant | N,N-diisopropylethylamine | 13.45 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isohexane | 50 ml | CCCC(C)C | C6H14
product | N-[4-Fluoropyrimidin-2-yl]-N-methylglycine, methyl ester | FC1=NC(=NC=C1)N(CC(=O)OC)C | C8H10FN3O2
